US03966957
N-(1-Cyclohexyl-3-pyrrolidinyl)-4-acetamidobenzamide
To a suspension of 8.6 g. (0.3 mole) of p-amino-N-(1-cyclohexyl-3-pyrrolidinyl)benzamide in 50 ml. of chloroform was added dropwise with stirring, 3.37 g. (0.03 mole) of acetic anhydride. The mixture was stirred for 30 minutes and the solution extracted with dilute sodium hydroxide. The chloroform layer was dried over sodium sulfate, filtered and concentrated. The residue was dissolved in hot ethyl acetate and an equivalent amount of isopropyl ether added to precipitate the product. After recrystallizing from the same solvent, 5.1 g. (50%) of product melting at 184°-186°C. was obtained.

reactant | p-amino-N-(1-cyclohexyl-3-pyrrolidinyl)benzamide | 0.3 mole | NC1=CC=C(C(=O)NC2CN(CC2)C2CCCCC2)C=C1 | C17H25N3O
reactant | acetic anhydride | 0.03 mole | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(1-Cyclohexyl-3-pyrrolidinyl)-4-acetamidobenzamide | 50% | C1(CCCCC1)N1CC(CC1)NC(C1=CC=C(C=C1)NC(C)=O)=O | C19H27N3O2
